US07482484B2
Step e: 5-Bromo-6-hydroxyindan-1-one
46.7 g (0.35 mol) of aluminium chloride are added portionwise to a solution of 28.3 g (0.117 mol) of 5-bromo-6-methoxyindan-1-one in 500 ml of toluene. The reaction mixture is heated at reflux for 15 minutes and is then poured into water and the phases are separated by settling (sparingly soluble product).

reactant | aluminium chloride | 0.35 mol, 46.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-bromo-6-methoxyindan-1-one | 0.117 mol, 28.3 g | BrC=1C=C2CCC(C2=CC1OC)=O | C10H9BrO2
reactant | water | O | H2O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Bromo-6-hydroxyindan-1-one | BrC=1C=C2CCC(C2=CC1O)=O | C9H7BrO2
